US08633312B2
2-[2-(3-Chlorophenyl)-ethyl]-4-methoxybenzoic acid (8)
For the synthesis of the title compound, 6.0 g of 2-[2-(3-chlorophenyl)-vinyl]-4-methoxybenzoic acid, 0.6 g of Pd/C (10%) and 41 of hydrogen are employed in method J (variant 2). The solvent mixture comprises 75 ml of acetonitrile, 75 ml of ethyl acetate and 20 ml of methanol. C16H15ClO3(Mr=290.75)

reactant | 2-[2-(3-chlorophenyl)-vinyl]-4-methoxybenzoic acid | 6.0 g | ClC=1C=C(C=CC1)C=CC1=C(C(=O)O)C=CC(=C1)OC | C16H13ClO3
reactant | hydrogen | [H][H] | H2
catalyst | Pd/C | 0.6 g | [Pd] | Pd
product | 2-[2-(3-Chlorophenyl)-ethyl]-4-methoxybenzoic acid | ClC=1C=C(C=CC1)CCC1=C(C(=O)O)C=CC(=C1)OC | C16H15ClO3
